US04540699
2-[3-[4-(Piperidinomethyl)pyrid-2-yloxy]propylamino]-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one
3-[4-(Piperidinomethyl)pyrid-2-yloxy]propylamine (1.12 g) and 2-nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one (1.11 g) were refluxed in ethanol (20 ml) for 40 hours. The reaction mixture was evaporated under reduced pressure and the residue was subjected to medium pressure chromatography on silica gel (eluting with 5% methanol/95% chloroform) to afford the title compound. This was dissolved in isopropanol and treated with a solution of maleic acid (0.51 g) in isopropanol to afford material which was recrystallised from isopropanol/methanol to afford 2-[3-[4-(piperidinomethyl)pyrid-2-yloxy]propylamino]-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one dimaleate (0.51 g), m.p. 115°-116.5° C.

reactant | 3-[4-(Piperidinomethyl)pyrid-2-yloxy]propylamine | 1.12 g | N1(CCCCC1)CC1=CC(=NC=C1)OCCCN | C14H23N3O
reactant | 2-nitroamino-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | 1.11 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C11H11N5O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[3-[4-(Piperidinomethyl)pyrid-2-yloxy]propylamino]-5-(1-methyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | N1(CCCCC1)CC1=CC(=NC=C1)OCCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)C)=O | C25H32N6O3
